US08076516B2
Addition of acetonitrile to 3-bromo-4-fluorobenzaldehyde following the method used in Example 16 gave 3-(3-bromo-4-fluorophenyl)-3-hydroxypropanenitrile as a pale yellow oil. Yield (4.2 g, 70%): 1H NMR (400 MHz, DMSO-d6) δ 7.71 (dd, J=6.8, 2.0 Hz, 1H), 7.44 (ddd, J=8.4, 5.2, 2.4 Hz, 1H), 7.35 (t, J=8.8 Hz, 1H), 6.08 (bs, 1H), 4.90 (s, 1H), 2.90 (ABd, J=16.8, 5.2 Hz, 1H), 2.83 (ABd, J=16.8, 6.4 Hz, 1H).

reactant | 3-bromo-4-fluorobenzaldehyde | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-(3-bromo-4-fluorophenyl)-3-hydroxypropanenitrile | BrC=1C=C(C=CC1F)C(CC#N)O | C9H7BrFNO
